US07968570B2
A mixture of 3-(2-fluorophenyl)-propylamine (306 mg, 2 mmol), 2-bromomethyl-benzoic acid methyl ester (458 mg, 2 mmol), and K2CO3 (200 mg, 1.45 mmol) in toluene (10 mL) was heated with stirring at 100° C. for 16 h. Workup and silica gel column chromatography using a gradient of hexanes to 50% ethyl acetate in hexanes afforded 2-[3-(2-fluorophenyl)-propyl]-2,3-dihydroisoindol-1-one (275 mg, 51%). GC/MS gave: m/z (rel.int.) 269 (M+, 32), 147 (89), 146 (100), 119 (29), 109 (25) and 91 (40).

reactant | 3-(2-fluorophenyl)-propylamine | 2 mmol, 306 mg | FC1=C(C=CC=C1)CCCN | C9H12FN
reactant | 2-bromomethyl-benzoic acid methyl ester | 2 mmol, 458 mg | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | K2CO3 | 1.45 mmol, 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[3-(2-fluorophenyl)-propyl]-2,3-dihydroisoindol-1-one | 275 mg, 51% | FC1=C(C=CC=C1)CCCN1C(C2=CC=CC=C2C1)=O | C17H16FNO
